### PR TITLE
feat: surreal birthday is finite iff number is dyadic rational

### PR DESCRIPTION
**Pull request by vihdzp**
- [x] depends on: #144

### CODE REVIEW

File: CombinatorialGames/Game/Birthday.lean [hunk 1]
```diff
@@ -437,9 +431,6 @@ theorem birthday_add_le (x y : Game) : (x + y).birthday ≤ x.birthday + y.birth
 theorem birthday_sub_le (x y : Game) : (x - y).birthday ≤ x.birthday + y.birthday := by
   simpa using birthday_add_le x (-y)
 
-/- The bound `(x * y).birthday ≤ x.birthday * y.birthday` on surreals is currently an open problem.
-See https://mathoverflow.net/a/476829/147705. -/
-
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Birthday.lean:442]: Where did this go?

File: CombinatorialGames/Surreal/Dyadic/Birthday.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+  rw [← Surreal.toGame_ratCast, Surreal.birthday_toGame]
+
+theorem Surreal.birthday_dyadic_lt_omega0 (x : Dyadic) : Surreal.birthday x < ω := by
+  rw [← Surreal.mk_dyadic]
+  exact (Surreal.birthday_mk_le _).trans_lt (IGame.Short.birthday_lt_omega0 _)
+
+theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
+    x.birthday < ω ↔ x ∈ Set.range ((↑) : Dyadic → _) := by
+  constructor
+  · intro h
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Dyadic/Birthday.lean]: Same golf from `Birthday.lean` applied here:

```suggestion
  refine ⟨fun h ↦ ?_, ?_⟩
```

File: CombinatorialGames/Surreal/Dyadic/Birthday.lean [hunk 3]
```diff
@@ -0,0 +1,42 @@
...
+    obtain ⟨x, _, rfl, hx⟩ := Surreal.birthday_eq_iGameBirthday x
+    rw [← hx, ← IGame.short_iff_birthday_finite] at h
+    use IGame.toDyadic x
+    simp
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Dyadic/Birthday.lean]: Not sure if this is nicer?

```suggestion
    exact ⟨_, ratCast_toDyadic _⟩`
```

**Review by tristan-f-r — APPROVED** [review]

File: CombinatorialGames/Game/Birthday.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Birthday.lean:442]: We already have this `proof_wanted` in the `Surreal/Birthday` file! Felt like it was a bit redundant having this comment here too.

File: CombinatorialGames/Surreal/Dyadic/Birthday.lean (hunk 3 above)
Comment (vihdzp) [reply CombinatorialGames/Surreal/Dyadic/Birthday.lean]: I like it better.
